US06818652B2
A solution of 2-(4,4-dimethyl-chroman-7-yl)-heptan-1-ol (0.366 g, 1.32 mmole) in 27 mL of THF was treated with 0.222 g of methyl 4-hydroxybenzoate, 0.382 g of triphenylphosphine and 0.23 mL of diethyl azodicarboxylate (DEAD). The reaction mixture was heated at reflux for two hours, diluted with 50 mL of ether and then washed with two 25 mL portions of water and 25 mL of saturated aqueous sodium chloride solution. The organic phase was dried over MgSO4, filtered and concentrated in vacuo to give a yellow oil. The product was purified by flash chromatography (SiO2, 7% ethyl acetate in hexanes) to yield 0.474 g of 4-[2-(4,4-dimethyl-chroman-7-yl)-heptyloxy]-benzoic acid methyl ester, as a pale yellow oil.

reactant | 2-(4,4-dimethyl-chroman-7-yl)-heptan-1-ol | 1.32 mmole, 0.366 g | CC1(CCOC2=CC(=CC=C12)C(CO)CCCCC)C | C18H28O2
reactant | methyl 4-hydroxybenzoate | 0.222 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | triphenylphosphine | 0.382 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.23 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 27 mL | C1CCOC1 | C4H8O
solvent | ether | 50 mL | CCOCC | C4H10O
product | 4-[2-(4,4-dimethyl-chroman-7-yl)-heptyloxy]-benzoic acid methyl ester | 0.474 g | COC(C1=CC=C(C=C1)OCC(CCCCC)C1=CC=C2C(CCOC2=C1)(C)C)=O | C26H34O4
